US07759348B2
6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide
Following the procedure of Example 3, making variations only as required to use 5-Fluoro-2-trifluoromethylbenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide, the title compound was obtained as a white powder (28% yield). 1H NMR (400 MHz, CDCl3) δ 8.07, 7.89, 7.76, 7.28-7.24, 7.10-7.08, 7.02, 4.06-4.03, 3.90-3.86, 3.82-3.72, 3.51, 3.37, 1.76-1.70, 1.30, 0.70-0.67, 0.44-0.40, 0.03-0.003.

reactant | 5-Fluoro-2-trifluoromethylbenzoyl chloride | FC=1C=CC(=C(C(=O)Cl)C1)C(F)(F)F | C8H3ClF4O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C15H23N5O
product | 6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O | C23H25F4N5O2
